US07902373B2
Step C: Preparation of 6-(2,5-difluorophenyl)-N-[1-(2,2,2-trifluoroethyl)piperidin-4-yl]nicotinamide
To a 50 mL flask was added 6-(2,5-difluorophenyl)nicotinic acid (100 mg, 0.46 mmol), 1-(2,2,2-trifluoroethyl)piperidin-4-amine (77.5 mg, 0.46 mmol), EDAC (89.7 mg, 0.468 mmol), HOBT (57.5 mg, 0.46 mmol), and DMA (2 mL) followed by NMM (0.117 mL, 1.06 mmol). The reaction was stirred for 1 hour at room temperature and then diluted with EtOAc (0.2 mL) followed by H2O (4 mL). The resulting solids were washed in H2O and collected by filtration. 1H NMR (400 MHz, DMSO-d6) □ ppm 9.12 (1H, d, J=2.2 Hz), 8.55 (1H, d, J=7.5 Hz), 8.31 (1H, dd, J=8.3, 2.3 Hz), 7.95 (1 H, dd, J=8.2, 1.5 Hz), 7.73-7.84 (1H, m), 7.35-7.51 (2H, m), 3.73-3.90 (1H, m), 3.19 (2H, q, J=10.3 Hz), 2.95 (2H, d, J=11.9 Hz), 2.39-2.50 (2H, m), 1.82 (2H, dd, J=14.0, 3.2 Hz), 1.53-1.68 (2H, m). LC/MS (M+H)=400.36 expected, 400.0 observed.

reactant | 6-(2,5-difluorophenyl)nicotinic acid | 0.46 mmol, 100 mg | FC1=C(C=C(C=C1)F)C1=NC=C(C(=O)O)C=C1 | C12H7F2NO2
reactant | 1-(2,2,2-trifluoroethyl)piperidin-4-amine | 0.46 mmol, 77.5 mg | FC(CN1CCC(CC1)N)(F)F | C7H13F3N2
reactant | EDAC | 0.468 mmol, 89.7 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.46 mmol, 57.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 1.06 mmol, 0.117 mL | CN1CCOCC1 | C5H11NO
solvent | EtOAc | 0.2 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 4 mL | O | H2O
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | 6-(2,5-difluorophenyl)-N-[1-(2,2,2-trifluoroethyl)piperidin-4-yl]nicotinamide | FC1=C(C=C(C=C1)F)C1=NC=C(C(=O)NC2CCN(CC2)CC(F)(F)F)C=C1 | C19H18F5N3O
